US08466181B2
6-(4-(4-(2-Fluorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)-N-(3-methyloxetan-3-yl)nicotinamide
As described for example 22, 6-(4-(4-(2-fluorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid (69 mg, 0.189 mmol) was converted, using 3-methyl-3-oxetaneamine instead of 4-aminotetrahydropyran, to the title compound (61 mg, 74%) which was obtained as a white foam after purification by chromatography (silica, 0 to 10% methanol in dichloromethane). MS: m/e=434.3 [M+H]+.

reactant | 6-(4-(4-(2-fluorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid | 0.189 mmol, 69 mg | FC1=C(C=CC=C1)C=1N=NN(C1C=1N=CN(C1)C1=NC=C(C(=O)O)C=C1)C | C18H13FN6O2
reactant | 3-methyl-3-oxetaneamine | CC1(COC1)N | C4H9NO
product | 6-(4-(4-(2-Fluorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)-N-(3-methyloxetan-3-yl)nicotinamide | 61 mg, 74% | FC1=C(C=CC=C1)C=1N=NN(C1C=1N=CN(C1)C1=NC=C(C(=O)NC2(COC2)C)C=C1)C | C22H20FN7O2
